US07642264B2
4-Methyl-2-{1-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-1H-imidazol-4-yl}-thiazole-5-sulfonic acid tert-butylamide
A stirred mixture of 2-(4-tributylstannanyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine (Example G.11) (0.718 g, 1.0 mmol), 2-chloro-4-methyl-thiazole-5-sulfonic acid tert-butylamide (Example H.5) (0.295 g, 1.1 mmol), tetrakis(triphenylphosphine)palladium (0.058 g, 0.044 mmol) in toluene (5 mL) was heated under reflux conditions for 18 h. Cooled to rt, some precipitate occurred, diluted with toluene (˜5 mL), added heptane, filtered the precipitate off, washed with toluene/heptane, dried in HV to give the title compound as a white solid (384 mg, 59%). MS (ISP) 590.4 [(M+H)+]; mp>250° C.

reactant | 2-(4-tributylstannanyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine | 1.0 mmol, 0.718 g | C(CCC)[Sn](C=1N=CN(C1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)(CCCC)CCCC
reactant | 2-chloro-4-methyl-thiazole-5-sulfonic acid tert-butylamide | 1.1 mmol, 0.295 g | C(C)(C)(C)NS(=O)(=O)C1=C(N=C(S1)Cl)C | C8H13ClN2O2S2
reactant | heptane | CCCCCCC | C7H16
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | ˜5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.044 mmol, 0.058 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Methyl-2-{1-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-1H-imidazol-4-yl}-thiazole-5-sulfonic acid tert-butylamide | 384 mg, 59% | C(C)(C)(C)NS(=O)(=O)C1=C(N=C(S1)C=1N=CN(C1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C | C24H21F6N5O2S2
